US09428514B2
5-bromo-4-chloropyridin-2-ol
5-Bromo-4-chloropyridin-2-amine (2.01 g, 9.69 mmol) was dissolved in 75% (v/v) sulfuric acid (40.2 mL, 566 mmol) and then chilled in an ice bath. A solution of sodium nitrite (2.21 g, 32.0 mmol) in water (20.1 mL, 1116 mmol) was added drop-wise and the reaction mixture was then stirred for 3 hours. The mixture was concentrated under reduced pressure and aqueous ammonia (15 mL) was added drop-wise. The resulting white precipitate was collected via vacuum filtration and the filter cake washed with cold water (100 mL) then dried in a vacuum oven for 24 hours to give 1.94 g (95%) of the title compound.

reactant | 5-Bromo-4-chloropyridin-2-amine | 9.69 mmol, 2.01 g | BrC=1C(=CC(=NC1)N)Cl | C5H4BrClN2
reactant | sulfuric acid | 566 mmol, 40.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 32.0 mmol, 2.21 g | N(=O)[O-].[Na+]
reactant | water | 1116 mmol, 20.1 mL | O | H2O
product | 5-bromo-4-chloropyridin-2-ol | 1.94 g, 95% | BrC=1C(=CC(=NC1)O)Cl | C5H3BrClNO
